US06133271
Following the procedure of Example 97, the reaction of pyrazole with 2-chloro-5-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine gives 2-(pyrazol-1-yl)-5-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine.

reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | 2-chloro-5-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC=C2C)NCCC2=CC1=C(C=C2)OCO1 | C16H14ClN3O2S
product | 2-(pyrazol-1-yl)-5-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | N1(N=CC=C1)C=1N=C(C2=C(N1)SC=C2C)NCCC2=CC1=C(C=C2)OCO1 | C19H17N5O2S
